data/oMe_Silver.jsonl
{"reaction_id": "NR-202_1-c1ccc(Cl)cc1_2-c1ccc(C#N)cc1_3-c1ccc(F)cc1","level": "medium","name": "Neber Rearrangement","reactants_smiles": ["C(c1ccc(Cl)cc1)(c1ccc(C#N)cc1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc(F)cc1"],"products_smiles": ["c1ccc(F)cc1C(=O)C(c1ccc(Cl)cc1)(c1ccc(C#N)cc1)N"],"conditions": "Base, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C-](c1ccc(Cl)cc1)(c1ccc(C#N)cc1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc(F)cc1","step_weight": 0,"rationale": "The base abstracts the relatively acidic alpha-proton due to resonance stabilization of the resulting carbanion by the adjacent oxime group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(F)cc1C2=NC(c1ccc(Cl)cc1)(c1ccc(C#N)cc1)2","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the oxime nitrogen intramolecularly, forming a strained azirine ring and displacing the tosylate, a good leaving group stabilized by resonance."},{"step": 3,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1ccc(F)cc1)2(C(c1ccc(Cl)cc1)(c1ccc(C#N)cc1)[N-]2)O","step_weight": 0,"rationale": "Water adds to the electrophilic azirine carbon, driven by ring strain relief and polarization of the C–N bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)2(C(c1ccc(Cl)cc1)(c1ccc(C#N)cc1)[NH]2)[O-]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to nitrogen stabilizes the intermediate, favored in aqueous medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(F)cc1C(C(c1ccc(Cl)cc1)(c1ccc(C#N)cc1)[NH-])=O","step_weight": 0,"rationale": "Elimination of hydroxide from the intermediate occurs to form the carbonyl, driven by the stability of the ketone and the good leaving ability of hydroxide under these conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(F)cc1C(=O)C(c1ccc(Cl)cc1)(c1ccc(C#N)cc1)N","step_weight": 0,"rationale": "Final protonation of the nitrogen yields the neutral alpha-amino ketone, favored under aqueous conditions for product stability."}],"description": "Under basic aqueous conditions, the alpha-proton adjacent to the oxime tosylate is deprotonated, enabling intramolecular cyclization to an azirine via tosylate departure. Subsequent hydrolytic ring opening, proton transfers, and rearrangement yield the thermodynamically stable alpha-amino ketone."}
{"reaction_id": "NR-115_10-C(C)C_1-C_2-c1ccc(OC)cc1_3-C_4-Cc1ccccc1_5-c1occc1_6-F_7-C(=O)OCC_8-c1ccccc1_9-CC","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(C)C(O/C(=C(/F)C(=O)OCC)/O[Si](c1ccccc1)(CC)(C(C)C))(c1occc1)Cc1ccccc1)(C)c1ccc(OC)cc1"],"products_smiles": ["C(=C(C)C(C(C(=O)O[Si](c1ccccc1)(CC)(C(C)C))(C(=O)OCC)F)(c1occc1)Cc1ccccc1)(C)c1ccc(OC)cc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(C)C(C(C(=O)O[Si](c1ccccc1)(CC)(C(C)C))(C(=O)OCC)F)(c1occc1)Cc1ccccc1)(C)c1ccc(OC)cc1","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
